US09079929B2
(E)-3-(3-chloro-2-fluoro-6-(trifluoromethyl)phenyl)acrylic acid
Intermediate 16 was made in a similar manner as Intermediate 15 substituting 3-chloro-2-fluoro-6-(trifluoromethyl)benzaldehyde for 5-chloro-2-(difluoromethoxy)benzaldehyde followed by TFA deprotection. MS (ESI) m/z: 292 (M+Na)+. 1H NMR (400 MHz, CDCl3) δ 7.87 (1H, dd, J=16.17, 2.02 Hz), 7.49-7.62 (2H, m), 6.67 (1H, dd, J=16.30, 1.39 Hz) ppm.

reactant | 3-chloro-2-fluoro-6-(trifluoromethyl)benzaldehyde | ClC=1C(=C(C=O)C(=CC1)C(F)(F)F)F | C8H3ClF4O
reactant | 5-chloro-2-(difluoromethoxy)benzaldehyde | ClC=1C=CC(=C(C=O)C1)OC(F)F | C8H5ClF2O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | (E)-3-(3-chloro-2-fluoro-6-(trifluoromethyl)phenyl)acrylic acid | ClC=1C(=C(C(=CC1)C(F)(F)F)/C=C/C(=O)O)F | C10H5ClF4O2
